US04159328
2-Methylimino-3-methyl-5-benzyl-tetrahydro-1,3,5-thiadiazin-4-one (compound No. 54):
A mixture of 4.4 g (0.02 mole) of N-benzyl-N-chloromethylcarbamoyl chloride and 2.0 g (0.02 mole) of 1,3-dimethylthiourea was dissolved in 50 ml of ethyl alcohol and heated under reflux with stirring for 2 hours. After addition of 20 ml of a saturated aqueous potassium carbonate solution, the mixture was extracted with 100 ml of benzene. The benzene layer was washed with water, dried, and freed from the benzene by distillation under reduced pressure to obtain 4.0 g of crude crystals which were recrystallized from ether. Yield 3.2 g (63%); m.p. 93°-95° C.

reactant | N-benzyl-N-chloromethylcarbamoyl chloride | 0.02 mole, 4.4 g | C(C1=CC=CC=C1)N(C(=O)Cl)CCl | C9H9Cl2NO
reactant | 1,3-dimethylthiourea | 0.02 mole, 2.0 g | CNC(=S)NC | C3H8N2S
reactant | potassium carbonate | 20 ml | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | 2-Methylimino-3-methyl-5-benzyl-tetrahydro-1,3,5-thiadiazin-4-one | 4.0 g | CN=C1SCN(C(N1C)=O)CC1=CC=CC=C1 | C12H15N3OS
